US08461161B2
A mixture of 3-{1-[(6-chloropyrazin-2-yl)amino]ethyl}benzoic acid (11 mg, 0.04 mmol), 5-methylpyridin-3-amine (5 mg, 0.048 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (11 mg, 0.059 mmol), 4-pyrrolidinopyridine (1.2 mg, 0.008 mmol) and triethylamine (0.013 mL, 0.095 mmol) in dichloromethane (1 mL) was stirred at room temperature for 17 hours. After this time the mixture was diluted with dichloromethane (20 mL), washed successively with saturated aqueous sodium hydrogen carbonate (2×15 mL) and brine (15 mL), dried (Na2SO4) and concentrated under reduced pressure to give a dark yellow oil which was purified by flash chromatography (silica, ethyl acetate/methanol) to give 3-{1-[(6-chloropyrazin-2-yl)amino]ethyl}-N-(5-methylpyridin-3-yl)benzamide (9 mg, 61%) as a pale yellow oil.

reactant | 3-{1-[(6-chloropyrazin-2-yl)amino]ethyl}benzoic acid | 0.04 mmol, 11 mg | ClC1=CN=CC(=N1)NC(C)C=1C=C(C(=O)O)C=CC1 | C13H12ClN3O2
reactant | 5-methylpyridin-3-amine | 0.048 mmol, 5 mg | CC=1C=C(C=NC1)N | C6H8N2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.059 mmol, 11 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-pyrrolidinopyridine | 0.008 mmol, 1.2 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | triethylamine | 0.095 mmol, 0.013 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-{1-[(6-chloropyrazin-2-yl)amino]ethyl}-N-(5-methylpyridin-3-yl)benzamide | 9 mg, 61% | ClC1=CN=CC(=N1)NC(C)C=1C=C(C(=O)NC=2C=NC=C(C2)C)C=CC1 | C19H18ClN5O
